US06750231B2
1-Hexyl-3,4-dimethyl-4-(3-(1,3-oxazol-5-yl)phenyl)piperidine
To a solution of 1-hexanoyl-3,4-dimethyl-4-(3-(1,3-oxazol-5-yl)phenyl)piperidine (Preparation 36, 292 mg, 0.83 mmol) in tetrahydrofuran (6.0 mL) at 0° C. was added lithium aluminium hydride (1.0 M solution in tetrahydrofuran, 0.80 mL, 0.80 mmol) dropwise over a few minutes. The solution was stirred at room temperature under a nitrogen atmosphere for 30 minutes and then heated at reflux for 30 minutes before it was cooled back to 0° C. The reaction was cautiously quenched by the addition of 1 N sodium hydroxide (1.0 mL) and then ethyl acetate (excess) and solid sodium hydrogencarbonate (excess) were added. The mixture was stirred vigorously for 1 h and then filtered through Celite®, washing with ethyl acetate. The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate:hexane:ammonia (90:10:1). The title compound was isolated as clear oil (233 mg, 83%).

reactant | 1-hexanoyl-3,4-dimethyl-4-(3-(1,3-oxazol-5-yl)phenyl)piperidine | 0.83 mmol, 292 mg | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C1=CN=CO1)C)C | C22H30N2O2
reactant | lithium aluminium hydride | 0.80 mmol, 1.0 M, 0.80 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 1-Hexyl-3,4-dimethyl-4-(3-(1,3-oxazol-5-yl)phenyl)piperidine | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)C1=CN=CO1)C)C | C22H32N2O
